US06649668B1
9-xanthenone;
1,4-dihydroxyanthraquinone; anthraquinone; 2-methylanthraquinone,

reactant | 1,4-dihydroxyanthraquinone | OC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O | C14H8O4
reactant | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
reactant | 2-methylanthraquinone | CC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H10O2
product | 9-xanthenone | C1=CC=CC=2OC3=CC=CC=C3C(C12)=O | C13H8O2
